US07495103B2
3-(2-Ethoxyethoxy)-4-tert-butylbenzenamine (C-3) was synthesized following the general scheme above starting from 2-tert-butyl-5-nitrophenol (C-1-a) and 1-bromo-2-ethoxyethane. 1H NMR (400 MHz, CDCl3) δ 6.97 (d, J=7.9 Hz, 1H), 6.17 (s, 1H), 6.14 (d, J=2.3 Hz, 1H), 4.00 (t, J=5.2 Hz, 2H), 3.76 (t, J=5.2 Hz, 2H), 3.53 (q, J=7.0 Hz, 2H), 1.27 (s, 9H), 1.16 (t, J=7.0 Hz, 3H); HPLC ret. time 2.55 min, 10-99% CH3CN, 5 min run; ESI-MS 238.3 m/z (MH+).

reactant | 2-tert-butyl-5-nitrophenol | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])O | C10H13NO3
reactant | 1-bromo-2-ethoxyethane | BrCCOCC | C4H9BrO
solvent | CH3CN | CC#N | C2H3N
product | 3-(2-Ethoxyethoxy)-4-tert-butylbenzenamine | C(C)OCCOC=1C=C(C=CC1C(C)(C)C)N | C14H23NO2
